US04209621
3-Ethyl-7-phenyl-1,2,4-triazolo[4,3-a]pyrimidine
A mixture of 1.55 g. of 2-hydrazino-4-phenylpyrimidine and 25 ml. of triethyl orthopropionate is refluxed for 6 hours. On cooling the desired compound is obtained by filtration, m.p. 246°-247° C.

reactant | 2-hydrazino-4-phenylpyrimidine | N(N)C1=NC=CC(=N1)C1=CC=CC=C1 | C10H10N4
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 3-Ethyl-7-phenyl-1,2,4-triazolo[4,3-a]pyrimidine | C(C)C1=NN=C2N1C=CC(=N2)C2=CC=CC=C2 | C13H12N4
